US07888374B2
N-(4-amino-5-cyano-6-isobutylpyridin-2-yl)-2-(3-methoxyphenyl)acetamide
To a solution of 20 mg (0.11 mmol) of 4,6-diamino-2-isobutyl-nicotinonitrile in 1 mL of CH2Cl2 was added 40 μL (0.49 mmol) of pyridine, then 30 μL (0.19 mmol) of (3-methoxyphenyl)acetyl chloride. The solution was stirred at ambient temperature for 10 minutes then 0.5 mL of water was added. The mixture was concentrated under reduced pressure, then the residue was taken up in 5 mL of ethyl acetate and extracted with water (2×2 mL), saturated NaHCO3(aq.), and brine (1×2 mL), dried over MgSO4, filtered, and concentrated to an oil. The product was partially purified via silica gel chromatography, eluting with 30% ethyl acetate:hexanes to provide a solid. This was recrystallized from methanol to provide 8 mg (23%) of a white solid. 1H NMR (300 MHz, d6-DMSO) δ 10.48 (s, 1H), 7.37 (s, 1H), 7.22 (t, 1H, J=7.8 Hz), 6.84 (m, 5H), 3.73 (s, 3H), 3.66 (s, 2H), 2.54 (d, 2H, J=7.1 Hz), 2.09 (m, 1H), 0.92 (d, 6H, J=6.1 Hz); MS (ESI) m/e 339 (M+H)+, 337 (M−H)−.

reactant | 4,6-diamino-2-isobutyl-nicotinonitrile | 0.11 mmol, 20 mg | NC1=CC(=NC(=C1C#N)CC(C)C)N | C10H14N4
reactant | pyridine | 0.49 mmol, 40 μL | N1=CC=CC=C1 | C5H5N
reactant | (3-methoxyphenyl)acetyl chloride | 0.19 mmol, 30 μL | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | water | 0.5 mL | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(4-amino-5-cyano-6-isobutylpyridin-2-yl)-2-(3-methoxyphenyl)acetamide | 8 mg, 23% | NC1=CC(=NC(=C1C#N)CC(C)C)NC(CC1=CC(=CC=C1)OC)=O | C19H22N4O2
